US06479536B1
N-(4-Fluorobenzyl)-2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-amine
By using 4-fluoro-N-(2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-yl)benzamide, the title compound was synthesized according to Example 2b. Yield: 56%. Melting point: 135-136° C. (Methanol)

reactant | 4-fluoro-N-(2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-yl)benzamide | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(=C(O3)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C25H22FNO2
solvent | Methanol | CO | CH4O
product | N-(4-Fluorobenzyl)-2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-amine | Yield: 56% | FC1=CC=C(CNC=2C(=C(C3=C(C(=C(O3)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C25H24FNO
